US04607031
(4) Productuon of 2-(4-bromomethylphenyl-5-fluorobenzothiazole
31.6 g of 2-(4-methylphenyl)-5-fluorobenzothiazole was dissolved in 660 ml of carbon tetrachloride, and 23.1 g of N-bromosuccinimide and 700 mg of benzoyl peroxide were added. The mixture was refluxed for 6 hours. The reaction mixture was cooled to room temperature, and the insoluble materials were separated by filtration. The filtrate was concentrated to a volume of 100 ml under reduced pressure. The precipitated crystals were collected by filtration to give 31.0 g of the captioned compound as crude crystals. Recrystallization from carbon tetrachloride gave the captioned compound as colorless platelike crystals.

reactant | 2-(4-methylphenyl)-5-fluorobenzothiazole | 31.6 g | CC1=CC=C(C=C1)C=1SC2=C(N1)C=C(C=C2)F | C14H10FNS
reactant | N-bromosuccinimide | 23.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 660 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 700 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-bromomethylphenyl-5-fluorobenzothiazole | 31.0 g | BrCC1=CC=C(C=C1)C=1SC2=C(N1)C=C(C=C2)F | C14H9BrFNS
